US04379154
A 33% (weight/volume) solution of methylamine in ethanol (13.5 cc) is added dropwise and in the course of 10 minutes to a suspension of methyl 2-(quinol-2-yl)-tetrahydrothiophen-2-carbodithioate (20 g) in ethanol (42 cc), kept at a temperature of about 20° C. The reaction mixture is then stirred for 15 hours at a temperature of about 20° C. The resulting crystals are filtered off, washed twice with ethanol (24 cc in total) and dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. A crystalline crude product (12.1 g) is thus obtained. This product is redissolved in boiling ethanol (75 cc); decolourising charcoal (0.6 g) is added to the solution, which is filtered hot, and the filtrate is then cooled for 3 hours at a temperature of about 5° C. The resulting crystals are filtered off, washed twice with ethanol (24 cc in total) and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 60° C. N-Methyl-2-(quinol-2-yl)-tetrahydrothiophen-2-carbothioamide (11 g), melting at 124° C., is thus obtained.

reactant | methylamine | CN | CH5N
reactant | methyl 2-(quinol-2-yl)-tetrahydrothiophen-2-carbodithioate | 20 g | N1=C(C=CC2=CC=CC=C12)C1(SCCC1)C(=S)SC | C15H15NS3
reactant | charcoal | 0.6 g | C | CH4
solvent | ethanol | 13.5 cc | C(C)O | C2H6O
solvent | ethanol | 42 cc | C(C)O | C2H6O
solvent | ethanol | 75 cc | C(C)O | C2H6O
product | N-Methyl-2-(quinol-2-yl)-tetrahydrothiophen-2-carbothioamide | 11 g | CNC(=S)C1(SCCC1)C1=NC2=CC=CC=C2C=C1 | C15H16N2S2
